US04777185
1-cyano-1-(4-ethoxyphenyl)cyclopropane
To 7.5 ml (0.012 mol) of 1.7M n-butyllithium in hexane, at room temperature, under an atmosphere of nitrogen, is added rapidly 10 ml of anhydrous tetrahydrofuran, followed by a solution of 4-ethoxyphenyl acetonitrile (0.8 g 0.005 mol) in 4 ml of tetrahydrofuran, during 5 minutes. The reaction mixture is stirred magnetically for 1 hour then treated with 0.50 g (0.005 mol) of 1,2-dichloroethane in 10 ml of tetrahydrofuran, during a period of 40 minutes (slow addition is important). After 16 hours, the mixture is hydrolysed by 10 ml of 3N HCl and then taken up in ether, washed with water, sodium bicarbonate, water and dried over anhydrous sodium sulphate. The solvent is removed under reduced pressure. Yield: 0.64 g of a viscous semi-crystalline oil.

reactant | n-butyllithium | 0.012 mol, 1.7M, 7.5 ml | C(CCC)[Li]
reactant | 4-ethoxyphenyl acetonitrile | 0.005 mol, 0.8 g | C(C)OC1=CC=C(C=C1)CC#N | C10H11NO
reactant | 1,2-dichloroethane | 0.005 mol, 0.50 g | ClCCCl | C2H4Cl2
reactant | HCl | 3N, 10 ml | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-cyano-1-(4-ethoxyphenyl)cyclopropane | C(#N)C1(CC1)C1=CC=C(C=C1)OCC | C12H13NO
